US07939526B2
Sodium hydride (60% dispersion in mineral oil, 58 mg, 1.45 mmol) was added to a stirred solution of 1-(4-chloro-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol (described in U.S. Pat. No. 4,689,338 Example 189, Part D, 4.00 g, 14.5 mmol) in tetrahydrofuran (58 mL). After 5 minutes, methyl vinyl sulfone (3.10 g, 29.0 mmol) was added dropwise. The reaction mixture was stirred at room temperature for 17 hours. The volatiles were removed under reduced pressure and the resulting oil was purified by flash chromatography (silica gel, eluted with 5% methanol in dichloromethane) to yield 4.3 g of 4-chloro-1-{2-methyl-2-[2-(methylsulfonyl)ethoxy]propyl}-1H-imidazo[4,5-c]quinoline as a foam.

reactant | Sodium hydride | 1.45 mmol, 58 mg | [H-].[Na+]
reactant | 1-(4-chloro-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol | ClC1=NC=2C=CC=CC2C2=C1N=CN2CC(C)(O)C | C14H14ClN3O
reactant | methyl vinyl sulfone | 29.0 mmol, 3.10 g | C(=C)S(=O)(=O)C | C3H6O2S
solvent | tetrahydrofuran | 58 mL | O1CCCC1 | C4H8O
product | 4-chloro-1-{2-methyl-2-[2-(methylsulfonyl)ethoxy]propyl}-1H-imidazo[4,5-c]quinoline | 4.3 g | ClC1=NC=2C=CC=CC2C2=C1N=CN2CC(C)(OCCS(=O)(=O)C)C | C17H20ClN3O3S
